US09290490B2
Thiazole (501 mg, 5.88 mmol) was dissolved in THF (1.2 mL) and isopropylmagnesium chloride lithium chloride complex (1.3 M solution in THF, 5.88 mL, 7.64 mmol) was added dropwise, and the resulting mixture was stirred at room temperature for 1 hr. Cis-methyl 3-acetylcyclopentanecarboxylate (1.2 g, 7.05 mmol) was then added as a solution in THF (2 mL) and the reaction mixture was stirred for 3 hrs at room temperature. The reaction mixture was diluted with saturated NH4Cl and diethyl ether. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (12% to 100% Et2O in Hexanes) to afford cis-methyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclopentanecarboxylate as a colorless oil; MS ESI calc'd. for C12H18NO3S [M+H]+ 256. found 256.

reactant | Thiazole | 5.88 mmol, 501 mg | S1C=NC=C1 | C3H3NS
reactant | isopropylmagnesium chloride lithium chloride | 7.64 mmol, 1.3 M, 5.88 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | Cis-methyl 3-acetylcyclopentanecarboxylate | 7.05 mmol, 1.2 g | C(C)(=O)[C@H]1C[C@H](CC1)C(=O)OC | C9H14O3
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | cis-methyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclopentanecarboxylate | OC(C)(C=1SC=CN1)[C@H]1C[C@H](CC1)C(=O)OC | C12H17NO3S
